US07544688B2
4-{(2,2-Dimethyl-propyl)-[4-iodo-benzyl]-amino}-pyrimidine-2-carbonitrile (200 mg, 0.5 mmoles), 1-methyl imidazole (0.2 ml, 2.5 mmoles), triphenylphosphine (26 mg, 0.10 mmoles) and CsCO3 (160 mg, 0.5 mmoles) are dissolved in 3 ml of DMF and Pd(OAc)2 (10 mg, 0.05 mmoles) is added at rt. The mixture is stirred at 120° C. for 18 h. Water is added and the organic layer is extracted with AcOEt, washed with brine, dried over magnesum sulfate and concentrated. The crude product is purified by silica gel column chromatography to give 104 mg of desired 4-{(2,2-dimethyl-propyl)-[4-(3-methyl-3H-imidazol-4-yl)-benzyl]-amino}-pyrimidine-2-carbonitrile in 59% yield.

reactant | 4-{(2,2-Dimethyl-propyl)-[4-iodo-benzyl]-amino}-pyrimidine-2-carbonitrile | 0.5 mmoles, 200 mg | CC(CN(C1=NC(=NC=C1)C#N)CC1=CC=C(C=C1)I)(C)C | C17H19IN4
reactant | 1-methyl imidazole | 2.5 mmoles, 0.2 ml | CN1C=NC=C1 | C4H6N2
reactant | triphenylphosphine | 0.10 mmoles, 26 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | Water | O | H2O
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
catalyst | Pd(OAc)2 | 0.05 mmoles, 10 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | 4-{(2,2-dimethyl-propyl)-[4-(3-methyl-3H-imidazol-4-yl)-benzyl]-amino}-pyrimidine-2-carbonitrile | 104 mg, 59% yield | CC(CN(C1=NC(=NC=C1)C#N)CC1=CC=C(C=C1)C=1N(C=NC1)C)(C)C | C21H24N6
